US07125896B2
b) 1-[2-(2-Bromophenoxy)ethyl]-3-pyrroline
The title compound was prepared from 3-pyrroline and 2-(2-bromophenoxy)ethyl chloride in a similar manner to Example 42 (b).

reactant | 3-pyrroline | N1CC=CC1 | C4H7N
reactant | 2-(2-bromophenoxy)ethyl chloride | BrC1=C(OCCCl)C=CC=C1 | C8H8BrClO
product | 1-[2-(2-Bromophenoxy)ethyl]-3-pyrroline | BrC1=C(OCCN2CC=CC2)C=CC=C1 | C12H14BrNO
